US07335799B2
To a solution of ethyl 8-bromo-2,2-dimethyloctanoate (35.0 g, 125.4 mmol), tetrabutylammonium iodide (4.6 g, 12.5 mmol), and p-toluenesulphonylmethyl isocyanide (TosMIC, 12.2 g, 62.7 mmol) in anhydrous DMSO (450 mL) was added sodium hydride (60% dispersion in mineral oil, 6.3 g, 158 mmol) under cooling with an ice-water bath and under N2 atmosphere. The reaction mixture was stirred for 23 h at room temperature, then carefully hydrolyzed with ice-water (500 mL) and extracted with MTBE (3×200 mL). The organic layers were washed with water (300 mL) and brine (150 mL), dried over MgSO4, and concentrated in vacuo to give crude 9-isocyano-2,2,16,16-tetramethyl-9-(toluene-4-sulfonyl)-heptadecanedioic acid diethyl ester (37.0 g, 100%). 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 7.88 (d, J=7.9 Hz, 2H), 7.42 (d, J=7.9 Hz, 2H), 4.10 (q, J=7.5 Hz, 4H), 2.48 (s, 3H), 2.05-1.75 (m, 3H), 1.65-1.20 (m, 21H), 1.15 (t, J=7.5 Hz, 6H), 1.10 (s, 12H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm): 177.89, 163.75, 146.23, 131.35, 130.28, 129.82, 81.79, 60.17, 42.09, 40.57, 33.09, 29.68, 25.17, 24.78, 23.66, 14.31. HRMS (LSIMS, gly): Calcd for C37H54NO6S (MH+): 592.3672, found: 592.3667.

reactant | ethyl 8-bromo-2,2-dimethyloctanoate | 125.4 mmol, 35.0 g | BrCCCCCCC(C(=O)OCC)(C)C | C12H23BrO2
reactant | p-toluenesulphonylmethyl isocyanide | 62.7 mmol, 12.2 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | sodium hydride | 158 mmol, 6.3 g | [H-].[Na+]
catalyst | tetrabutylammonium iodide | 12.5 mmol, 4.6 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMSO | 450 mL | CS(=O)C | C2H6OS
product | 9-isocyano-2,2,16,16-tetramethyl-9-(toluene-4-sulfonyl)-heptadecanedioic acid diethyl ester | 37.0 g, 100% | C(C)OC(C(CCCCCCC(CCCCCCC(C(=O)OCC)(C)C)(S(=O)(=O)C1=CC=C(C=C1)C)[N+]#[C-])(C)C)=O | C33H53NO6S
